Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Esophageal perforation s/p  EGD
 
Major Surgical or Invasive Procedure:
Exploratory laparotomy; placement of open tube gastrostomy (22 
Malecot); placement of open tube jejunostomy ___ 
whistle-tip); gastric biopsy.

 
History of Present Illness:
___ yo female transferred from ___ w/ esophageal 
perforation after EGD for evaluation of esophageal and duodenal 
ulcers. CXR post EGD w/ right pneumothorax. A Chest tube was 
placed at OSH. Swallow study confirmed esophageal perforation.
 
Past Medical History:
Rheumatoid Arthritis
Mild Dementia 
Hyperlipidemia 
Osteoporosis.
 
Social History:
___
Family History:
unknown
 
Physical Exam:
General: frail, cachetic ___ yo female
HEENT: tongue very dry and cracked despite mouth care and 
humidified face tent.
Chest: right chest tubes w/ very pale green/white thick 
draiange. chest tubes to water seal.
COR; Tachy w/ regular rhythm
GI: abd: soft, round, NT, Nd, +BS. j- tube -Feeding tube in 
place. G-tube->capped
Extrem: no c/c/e. left Picc line placed ___
Neuro: alert, cooperative, intermittantly confused. baseline 
mild dementia.
 
Pertinent Results:
Abd CT scan- ___
IMPRESSION:
1. Gross esophageal perforation, with extravasation of oral 
contrast and air into the right pleural space. The right chest 
tube is currently not lying within the pleural collection.
2. Nasogastric tube terminating at the gastroesophageal 
junction, within a moderate hiatal hernia. The tube should be 
advanced several centimeters.
3. Distended gallbladder, prominent common duct, unusual contour 
of the left kidney, and focal low attenuation within the 
gallbladder fossa. These findings can be further assessed with 
ultrasound, to exclude gallbladder pathology, a left renal mass, 
and a focal hepatic lesion.
4. Nonobstructing left renal calculus.

___
CHEST, ONE VIEW: Comparison with ___, 8:10 a.m. 
New left PICC terminates in the mid-to-distal SVC. Right-sided 
IJ central venous line, right-sided chest tube, and esophageal 
stent are unchanged. Also unchanged are bilateral moderate 
pleural effusions, lower lobe atelectasis, and mild fluid 
overload. Osseous structures are similar in appearance.

IMPRESSION: Successful left PICC placement. No pneumothorax. 

Labs:
___ WBC-18.3* RBC-3.23* Hgb-8.4* Hct-26.7 Plt ___
___ WBC-9.4 RBC-3.35* Hgb-8.8* Hct-27.3 Plt ___
___ Glucose-115* UreaN-20 Creat-1.5* Na-146* K-4.1 Cl-111* 
HCO3-26 
___ Glucose-135* UreaN-27* Creat-1.0 Na-142 K-3.3 Cl-110* 
HCO3-25 
___ K-3.6
 
Brief Hospital Course:
Mrs. ___ was admitted to ___ from ___ 
___ for surgical eval of esophageal perforation. Dr. 
___ lengthy discussion w/ family and a plan for 
aggressive non-operative  management was made based on pt's age 
DNR/DNI status pre- hospitalization and co-morbidities. She was 
started on Vanco/Zosyn, fluconazole. on HD #1 and a covered 
esophageal stent was placed. She was weaned and extubated on 
HD#2 without difficulty.  Pt was transferred from the ICU and 
TPN was started on HD#3.  On HD#6 she was taken to the OR for 
Exploratory laparotomy; placement of open tube gastrostomy (22 
Malecot); placement of open tube jejunostomy ___ 
whistle-tip); gastric biopsy. Pt tolerated procedure well but 
was found to have what appeared to be Poorly differentiated 
adenocarcinoma of unknown primary confirmed by by pathology. 
Oncology was consulted and their recommendation was that 
aggressive measures including chemo or further surgery would not 
be beneficial.  An esophageal stent was placed over the area of 
perforation.  Initially pt's right chest tubes were draining 
serosanguinous drainage in small/mod amounts but on approx HD # 
9 the drainage increased and became bilious. It was thought that 
her esophageal stent had migrated. She was sent for a EGD and 
the stent was repositioned. Subsequently the drainage decreased 
and over the next few days became very pale green, thick and 
cloudy. Her leucocytosis resolved over the course of the ensuing 
days and she remained afebrile. A left sided pleural effusion 
was seen on CXR and a left chest tube was placed and 
subsequently d/c'd when the effusion resolved.  She was 
transfused 2 UPRBC for anemia. HCT has remained stable ~ ___. 
Left PICC line placed ___. She was maintained on broad spectrum 
IVAB Vanco, Zosyn, Caspo which she will need to complete a 6 
week course. TPN was d/c'd and tube feeds were started and 
increased to goal. ___ multiple discussions with 
pt's family through out her hospital stay re: her prognosis and 
course of treatment. A decision was made to continue treatment 
so long as she continued to respond. Hospice was also consulted 
but her, niece who is her proxy, ___ wanted to continue 
current CT and IVAB management.

 
Medications on Admission:
plaquenil 200", lipitor 10', remeron 30', 
 
Discharge Medications:
1. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet ___ TID 
(3 times a day): via j-tube.  
2. Morphine 2 mg/mL Syringe Sig: ___ mg Injection Q4H (every 4 
hours) as needed for pain.  
3. Piperacillin-Tazobactam 2.25 gram Recon Soln Sig: 2.25  gms 
Recon Solns Intravenous Q6H (every 6 hours) for 6 weeks.  
4. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: 1000 
(1000) mg Intravenous Q48H (every 48 hours) for 6 weeks.  
5. Haloperidol Lactate 5 mg/mL Solution Sig: .5 mg Injection QAM 
(once a day (in the morning)).  
6. Haloperidol Lactate 5 mg/mL Solution Sig: One (1) mg 
Injection @2000 ().  
7. Prevacid 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ a day: via j-tube.  
8. Acetaminophen 650 mg Suppository Sig: One (1) Suppository 
Rectal Q4H (every 4 hours) as needed.  
9. Caspofungin 70 mg Recon Soln Sig: Fifty (50) mg Recon Soln 
Intravenous Q24H (every 24 hours) for 6 weeks.  
10. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML ___ QID 
(4 times a day) as needed.  
11. picc line
picc line care and flushes per protocol
12. Heparin Flush PICC (100 units/ml) 2 mL IV DAILY:PRN 
10 ml NS followed by 2 mL of 100 Units/mL heparin (200 units 
heparin) each lumen Daily and PRN.  Inspect site every shift. 
13. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection three times a day: DVT prophylaxis.  
14. meds
all ___ meds via j-tube

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Esophageal perforation following EGD s/p esophageal stent
esophageal/duodenal ulcers, RA, osteoporosis, dementia, 
hyperchol 
carcinomatosis of the gastric mucosa.

 
Discharge Condition:
deconditioned and frail

 
Discharge Instructions:
Call Dr. ___ ___ if you develop chest 
pain, shortness of breath, fever, chills, change in the quality 
or quantity of the chest tube output. If the chest tube sutures 
break, they must be re-stured in place. If the chest tubes fall 
out, place a dressing over the site and call Dr. ___ 
___ immediately ___. You will need to come back to 
the hospital.
Please measure  and record thr chest tube output daily and send 
log of recordings to follow up appointment with pt.

 
Followup Instructions:
___